US09102671B2
To a solution of (R)-N-(1-(2-bromo-5-fluorophenyl)but-3-en-1-yl)acetamide (I-46) (1.50 g, 5.24 mmol) in THF (12 mL) was added water (3 mL) followed by iodine (4.0 g, 15.7 mmol). After stirring 6 hours the reaction mixture was poured into a mixture of saturated aqueous NaHCO3 (30 mL) and saturated aqueous Na2S2O3 (25 mL), extracted with EtOAc (2×40 mL), washed successively with saturated aqueous Na2S2O3, water and brine, dried over sodium sulfate and concentrated to dryness to give (5R)-5-(2-bromo-5-fluorophenyl)pyrrolidin-3-yl acetate (I-47) as a pale amber oil, which was used without purification in the next step. MS m/z 302.0, 304.0 (M+1)+.

reactant | (R)-N-(1-(2-bromo-5-fluorophenyl)but-3-en-1-yl)acetamide | 5.24 mmol, 1.50 g | BrC1=C(C=C(C=C1)F)[C@@H](CC=C)NC(C)=O | C12H13BrFNO
reactant | iodine | 15.7 mmol, 4.0 g | II | I2
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
reactant | Na2S2O3 | 25 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | THF | 12 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | (5R)-5-(2-bromo-5-fluorophenyl)pyrrolidin-3-yl acetate | C(C)(=O)OC1CN[C@H](C1)C1=C(C=CC(=C1)F)Br | C12H13BrFNO2
